US04961876
A. (S)-2-Chloro-4-methyl-pentanoic acid
L-(+)-Leucine (10 g, 0.076 moles) is mixed with 24 mL of concentrated HCl and 10 mL of concentrated HNO3 with the addition of 2 g of urea and subsequently heated for 1 hour at 80° C. and then for 1 hour at 50° C. on a water bath (complete dissolution of the acid with heavy foaming). After cooling, the solution is extracted with ether several times, the ether extract is washed with water and dried over calcium chloride, the solvent is distilled off in a rotary evaporator and the residue is fractionally distilled under vacuum.

reactant | L-(+)-Leucine | 0.076 moles, 10 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | HCl | 24 mL | Cl | ClH
reactant | urea | 2 g | NC(=O)N | CH4N2O
solvent | HNO3 | 10 mL | [N+](=O)(O)[O-] | HNO3
product | (S)-2-Chloro-4-methyl-pentanoic acid | Cl[C@H](C(=O)O)CC(C)C | C6H11ClO2
